US07067517B2
4-Pyridin-3-ylmethyl-piperazine-1-carboxylic acid 4-(2-cyclohexyl-acetylamino)-phenyl ester
The title compound was prepared from 4-(2-cyclohexyl-acetylamino)-phenyl chloroformate and 1-pyridin-3-ylmethyl-piperazine, hydrochloride, preparative HPLC (methode C) (64%, white crystals). HPLC-MS m/z=437.4 (M+1), Rt: 2.38 min.

reactant | 4-(2-cyclohexyl-acetylamino)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)NC(CC1CCCCC1)=O | C15H18ClNO3
reactant | 1-pyridin-3-ylmethyl-piperazine, hydrochloride | Cl.N1=CC(=CC=C1)CN1CCNCC1
product | 4-Pyridin-3-ylmethyl-piperazine-1-carboxylic acid 4-(2-cyclohexyl-acetylamino)-phenyl ester | C1(CCCCC1)CC(=O)NC1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC=1C=NC=CC1 | C25H32N4O3
